US04166817
(b) 4-Azido-7-chloroquinoline-3-carboxylic acid
Ethyl-4-azido-7-chloroquinoline-3-carboxylate (0.57 g; 0.002 M) in 10% aq. NaOH (10 ml) and stirred at 40° C. for 5 hr. The unreacted ester, m.p. 91°-4° C., was filtered off, the filtrate acidified to pH 3 with 5 M HCl, the product filtered off, washed well with water and dried in vacuo over P2O5. 0.33 g (66%), m.p. 284°-6° C. (dec.), (Found: C, 46.7; H, 2.3; Cl 14.1%. C10H5ClN4O2.1/2H2O requires C, 46.6; H, 2.4; Cl 13.8%), νmax (KBr) 2158, 1705 (br), 1608, 1562, 1395 (br), 1210 and 798 cm-1, δ [(CD3)2SO] 7.72 (m), 8.09 (d), 8.36 (d) and 9.18 (s) (aromatic H's)

reactant | Ethyl-4-azido-7-chloroquinoline-3-carboxylate | 0.002 M, 0.57 g | C(C)OC(=O)C=1C=NC2=CC(=CC=C2C1N=[N+]=[N-])Cl | C12H9ClN4O2
solvent | NaOH | 10 ml | [OH-].[Na+]
product | 4-Azido-7-chloroquinoline-3-carboxylic acid | N(=[N+]=[N-])C1=C(C=NC2=CC(=CC=C12)Cl)C(=O)O | C10H5ClN4O2
